US06960581B2
A solution of trimethylsilyl trifluoromethylsulfonate (9.52 mL, 52.5 mmol) in anhydrous methylene chloride (10 mL) was added to a stirred ice-cooled solution of ethyl pyruvate (5.56 mL, 50 mmol) and diisopropylethyl amine (9.6 mL, 55 mmol) in anhydrous methylene chloride (100 mL) over a period of 15 minutes. The reaction was stirred on ice for 1.5 hours and then at room temperature for 3 hours. The solvent was evaporated at room temperature and the residue treated with anhydrous pentane (200 mL) and cooled in ice. The precipitated solid was filtered off. The filtrate was collected and the pentane evaporated to give 2-trimethylsilanyloxyacrylic acid ethyl ester as a light brown liquid (90% yield). The crude product was used for the next reaction without further purification.

reactant | trimethylsilyl trifluoromethylsulfonate | 52.5 mmol, 9.52 mL | FC(F)(F)S(=O)(=O)O[Si](C)(C)C | C4H9F3O3SSi
reactant | ethyl pyruvate | 50 mmol, 5.56 mL | C(C(=O)C)(=O)OCC | C5H8O3
reactant | diisopropylethyl amine | 55 mmol, 9.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-trimethylsilanyloxyacrylic acid ethyl ester | 90% yield | C(C)OC(C(=C)O[Si](C)(C)C)=O | C8H16O3Si
